** Sheet_1 **
RLDR RLDR_1 RLDR_2 02-LDR3
RPOTENTIOMETER RLDR_1 GND GND 100Ω
XUDIODE UDIODE_1 RLDR_2 1N4007_C2978779
R1 RLDR_2 R1_2 1K
XU2 U2_1 RLDR_2 U2_3 UDIODE_1 U2_5 RELAY-SPST
LED1 U2_1 LED1_2 LED-TH-3MM_B
R4 LED1_2 R4_2 1K
COUTPUT R4_2 U2_3 1985881
QT1 RLDR_1 GND R1_2 BC847BW_C5185928
QT2 R1_2 GND UDIODE_1 BC847BW_C5185928
V1 RLDR_2 GND DC 9V




.tran 10m